US09079916B2
To 4-chloro-5-methylpyrimidin-2-amine (150 mg, 1.04 mmol), tetrakistriphenylphosphine Palladium (0) (60 mg, 0.052 mmol) and 3-(tert-butoxycarbonyl)phenylboronic acid (347 mg, 1.56 mmol), 1,2-DME (3 mL) and Na2CO3 (1.04 mL, 2 M, 2.08 mmol) were added and heated to 120° C. in a microwave reactor for 30 minutes. The reaction mixture was filtered using EtOAc and the filtrate was dried over anhydrous Na2SO4 and evaporated under reduced pressure. The crude product was purified by column chromatography on silica gel to yield tert-butyl 3-(2-amino-5-methylpyrimidin-4-yl)benzoate (148 mg, 50%). ESI-MS m/z calc. 285.1. Found 286.5 (M+1)+. Retention time 1.33 minutes.

reactant | 4-chloro-5-methylpyrimidin-2-amine | 1.04 mmol, 150 mg | ClC1=NC(=NC=C1C)N | C5H6ClN3
reactant | 3-(tert-butoxycarbonyl)phenylboronic acid | 1.56 mmol, 347 mg | C(C)(C)(C)OC(=O)C=1C=C(C=CC1)B(O)O | C11H15BO4
reactant | Na2CO3 | 2.08 mmol, 2 M, 1.04 mL | C(=O)([O-])[O-].[Na+].[Na+]
product | tert-butyl 3-(2-amino-5-methylpyrimidin-4-yl)benzoate | 148 mg, 50% | NC1=NC=C(C(=N1)C=1C=C(C(=O)OC(C)(C)C)C=CC1)C | C16H19N3O2
